US05371281
122.1 g (1.0 mol) of benzoic acid are melted at 125° to 130° C. in a 1 l four-neck flask fitted with stirrer, internal thermometer and reflux condenser. Then 405 g of oleum are introduced over 30 minutes. Subsequently the reaction mixture is heated to 130° C. and stirred for a further 1 hour at this temperature. The reaction mixture is cooled and 1800 g (=1500 ml) of 26.4% strength sodium chloride solution are run in over 15 minutes. The reaction mixture is heated to 80° C. to 85° C. Then the mixture is allowed to cool to 50° C. while stirring. Subsequently it is cooled with an ice bath to <5° C. and stirred for a further 30 minutes at this temperature. The precipitated product is filtered off with suction and washed with 256 g (=250 ml) of 5% strength sodium chloride solution cooled to 5° C., in two portions. After drying, 204.4 g of sodium 3-sulfobenzoate are obtained with a purity of 96% and a sodium chloride content of 3% (corresponding to 196.3 g (0.88 mol) of 100% sodium 3-sulfobenzoate). 2342 g of effluent are produced.

reactant | benzoic acid | 1.0 mol, 122.1 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | oleum | 405 g | OS(=O)(=O)O.O=S(=O)=O
reactant | sodium chloride | [Cl-].[Na+]
product | sodium 3-sulfobenzoate | 204.4 g | S(=O)(=O)(O)C=1C=C(C(=O)[O-])C=CC1.[Na+] | InChI=1S/C7H6O5S.Na/c8-7(9)5-2-1-3-6(4-5)13(10,11)12;/h1-4H,(H,8,9)(H,10,11,12);/q;+1/p-1
